US06100421
To 20 ml dioxane, was dissolved methyl 2,4-dichloro-3-(4-methylisoxazol-5-yl)benzoate in an amount of 0.83 g, and the resulting solution was then added with concentrated sulfuric acid in an amount of 5 ml and subsequently stirred for 15.5 hours under reflux and heating. After cooling the mixture, dioxane therein was distillated out, and the mixture was then extracted with ethyl acetate. The organic layer obtained was washed with saturated saline solution, then dried with anhydrous magnesium sulfate. The solvent in the layer was condensed under reduced pressure, and the residue obtained was purified by using a silica gel column chromatography to obtain an objective product, 2,4-dichloro-3-(4-methylisoxazol-5-yl)benzoic acid in an amount of 0.48 g in crystalline form. The melting point of the product was found to be in a range of 248-252° C.

reactant | methyl 2,4-dichloro-3-(4-methylisoxazol-5-yl)benzoate | ClC1=C(C(=O)OC)C=CC(=C1C1=C(C=NO1)C)Cl | C12H9Cl2NO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2,4-dichloro-3-(4-methylisoxazol-5-yl)benzoic acid | ClC1=C(C(=O)O)C=CC(=C1C1=C(C=NO1)C)Cl | C11H7Cl2NO3
